US07351719B2
184) (E)-3-[5-(4-chloro-phenyl)-pyridin-2-yl]-N-[4-(2-dimethylamino-ethyl )-phenyl]-acrylamide
Prepared analogously to Example 143 starting from (E)-3-[5-(4-chloro-phenyl)-pyridin-2-yl]-acrylic acid (Z34b) and 4-(2-dimethylamino-ethyl)-phenylamine. The crude product was purified by column chromatography (silica gel, dichloromethane/EtOH/conc. aqueous ammonia 50:10:0.1).

reactant | (E)-3-[5-(4-chloro-phenyl)-pyridin-2-yl]-acrylic acid | ClC1=CC=C(C=C1)C=1C=CC(=NC1)/C=C/C(=O)O | C14H10ClNO2
reactant | 4-(2-dimethylamino-ethyl)-phenylamine | CN(CCC1=CC=C(C=C1)N)C | C10H16N2
product | (E)-3-[5-(4-chloro-phenyl)-pyridin-2-yl]-N-[4-(2-dimethylamino-ethyl )-phenyl]-acrylamide | ClC1=CC=C(C=C1)C=1C=CC(=NC1)/C=C/C(=O)NC1=CC=C(C=C1)CCN(C)C | C24H24ClN3O
